US07265144B2
Step 1: Preparation of methyl 2-bromo-5-hydroxybenzoate
To a cold solution (ice water bath) of the methyl-2-bromo-5-methoxybenzoate (2.00 g, 8.16 mmol) in dichloromethane (15 mL) was added AlCl3(5.44 g, 40.8 mmol) under argon, and the reaction temperature was maintained below 10° C. using an ice-water bath. The light brown suspension was stirred for 10 min, then EtSH (3.02 mL, 40.8 mmol) was added dropwise at such a rate that the reaction temperature was maintained below 5° C. After 2.5 h of stirring below 10° C., the reaction mixture was slowly poured into ice water with agitation. The organic layer was separated, and the aqueous layer was extracted with DCM. The combined organic layers were washed with water, dried over MgSO4, filtered and concentrated under reduced pressure to afford a light yellow oil which was used in the next step without further purification.

reactant | methyl-2-bromo-5-methoxybenzoate | 8.16 mmol, 2.00 g | COC(C1=C(C=CC(=C1)OC)Br)=O | C9H9BrO3
reactant | AlCl3 | 40.8 mmol, 5.44 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | EtSH | 40.8 mmol, 3.02 mL | CCS | C2H6S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl 2-bromo-5-hydroxybenzoate | BrC1=C(C(=O)OC)C=C(C=C1)O | C8H7BrO3
